US06391901B1
Preparation of 3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-(4-imidazolylcarbonylamino)phenyl]benzo[b]thiophene Dihydrochloride
A slurry of 40 mg (0.35 mmol) of 4-imidazolecarboxylic acid in 5 mL of dichloroethane was treated with 1 drop DMF followed by 0.10 mL (1.37 mmol) of SOCl2. The mixture was heated to mild reflux for 2 h, concentrated in vacuo, and the residue reconstituted in 5 mL dichloroethane. A solution of 300 mg (0.70 mmol) of 2-(4-aminophenyl)-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene (Part D) in 5 mL of dichloroethane was added and the mixture heated to mild reflux for 16 h. The reaction was diluted with 10 mL of sat'd aq NaHCO3, the two layers were separated, and the aqueous layer extracted with CHCl3 (3×10 mL). The combined organic layers were dried (K2CO3), filtered and concentrated in vacuo. Radial chromatography (SiO2; 2% then 4% then 5% MeOH in CHCl3 sat'd with NH4OH) afforded 90 mg (0.17 mmol; 49%) of the free base of the title compound as a solid. The product was taken up in 2 mL of H2O and was treated with 1 mL of 1 N aq HCl. The solution was lyophilized to give the title compound.

reactant | 4-imidazolecarboxylic acid | 0.35 mmol, 40 mg | N1C=NC(=C1)C(=O)O | C4H4N2O2
reactant | SOCl2 | 1.37 mmol, 0.10 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-(4-aminophenyl)-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene | 0.70 mmol, 300 mg | NC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C27H28N2OS
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | 3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-(4-imidazolylcarbonylamino)phenyl]benzo[b]thiophene Dihydrochloride | Cl.Cl.N1(CCCC1)CCOC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)NC(=O)C=2N=CNC2)C=CC=C3)C=C1 | InChI=1S/C31H30N4O2S.2ClH/c36-31(28-20-32-21-33-28)34-24-11-9-23(10-12-24)30-27(26-5-1-2-6-29(26)38-30)19-22-7-13-25(14-8-22)37-18-17-35-15-3-4-16-35;;/h1-2,5-14,20-21H,3-4,15-19H2,(H,32,33)(H,34,36);2*1H
